US04072694
Preparation of 2-methyl-2,4-diphenyl-4-benzoyl-1,3-dioxolane
A mixture of 12.1 grams (50 millimoles) of α-methylol benzoin, 6.0 grams (50 millimoles) of acetophenone, 1.0 gram of p-toluenesulfonic acid and 100 ml. of benzene was refluxed under a Dean-Stark trap for 2 hours, the mixture allowed to stand overnight at room temperature, then saturated with ammonia gas and filtered. The resulting oil was distilled at 135°-165° C at 20μ vacuum pressure to yield 10.5 grams of an only partially pure product. 7.2 grams of this product were chromatographed on silica gel with 5% diethyl ether-hexane elution to yield 6.2 grams of a product that was still not entirely pure, which was subjected to NMR and infrared examination as follows:

reactant | α-methylol benzoin | 50 millimoles, 12.1 grams | C(O)C(C(C1=CC=CC=C1)=O)(O)C1=CC=CC=C1 | C15H14O3
reactant | acetophenone | 50 millimoles, 6.0 grams | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | p-toluenesulfonic acid | 1.0 gram | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-methyl-2,4-diphenyl-4-benzoyl-1,3-dioxolane | 6.2 grams | CC1(OCC(O1)(C(C1=CC=CC=C1)=O)C1=CC=CC=C1)C1=CC=CC=C1 | C23H20O3
